US08030497B2
a) 4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1H-benzoimidazole
A solution of 1.44 g (3.97 mmol) N-(2-amino-3-bromo-6-methoxy-phenyl)-4-isopropyl-benzamide in 25 ml glacial acetic acid is stirred at 100° C. for 3 h. The reaction mixture is cooled to room temperature 200 ml ethyl acetate is added. The solution is washed with 4N NaOH (2×) and with water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=2:1) to afford 1.12 g of the title compound as slightly reddish solid.

reactant | N-(2-amino-3-bromo-6-methoxy-phenyl)-4-isopropyl-benzamide | 3.97 mmol, 1.44 g | NC1=C(C(=CC=C1Br)OC)NC(C1=CC=C(C=C1)C(C)C)=O | C17H19BrN2O2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1H-benzoimidazole | 1.12 g | BrC1=CC=C(C=2NC(=NC21)C2=CC=C(C=C2)C(C)C)OC | C17H17BrN2O
